US06881733B1
A solution of 5 mL (49 mMol) 4-methoxypyridine in 200 mL tetrahydrofuran was cooled to −40° C., and then 6.9 mL (55 mMol) phenyl chloroformate were added dropwise. After stirring for 15 minutes, 20 mL (60 mMol) methyl magnesium chloride (3M in tetrahydrofuran) were added dropwise and the reaction mixture was allowed to warm to room temperature. After stirring for 30 minutes, the reaction mixture was cooled to −40° C. and treated with 340 mMol potassium tert-butoxide. The reaction mixture was allowed to warm to room temperature. After stirring for 1 hour, the reaction mixture was cooled to −40° C. and was treated with 200 mL saturated aqueous oxalic acid. The reaction was warmed to 20° C. and allowed to stir for 1 hour. The mixture was extracted 2×200 mL diethyl ether. The combined organic phases were washed sequentially with 4×100 mL 0.5 N sodium hydroxide, 2×100 mL saturated aqueous sodium bicarbonate, 3×100 mL deionized water, and 100 mL saturated aqueous sodium chloride. The remaining organics were dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with hexanes containing 40% ethylacetate. Fractions containing product were combined and concentrated under reduced pressure to provide 4.9 gm (47%) 1-(tert-butoxycarbonyl)-2-methyl-4-oxopiperidine.

reactant | 4-methoxypyridine | 49 mMol, 5 mL | COC1=CC=NC=C1 | C6H7NO
reactant | phenyl chloroformate | 55 mMol, 6.9 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | methyl magnesium chloride | 60 mMol, 3M, 20 mL | C[Mg]Cl
reactant | potassium tert-butoxide | 340 mMol | CC(C)([O-])C.[K+]
reactant | oxalic acid | 200 mL | C(C(=O)O)(=O)O | C2H2O4
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-2-methyl-4-oxopiperidine | 4.9 gm, 47% | C(C)(C)(C)OC(=O)N1C(CC(CC1)=O)C | C11H19NO3
